US06099593
3-AMINOPYRAZOLO[1,5-a]PYRIMIDIN-7-OL HYDROCHLORIDE
0.35 g of 3-nitropyrazolo[1,5-a]pyrimidin-7-ol, 20 cc of acetic acid, 1.6 g of cyclohexene and 85 mg of 10% palladium-on-charcoal were introduced into a 50 cc 3-necked round-bottomed flask fitted with a magnetic stirrer and equipped with a condenser and a thermometer. The medium was refluxed for 1h30' and the catalyst was then filtered off through Celite. After evaporation of the acetic acid, the solid obtained was taken up in 2 cc of refluxing concentrated hydrochloric acid for 2 h 30'. After evaporation of the solvent, an off-white solid was collected.

reactant | 3-nitropyrazolo[1,5-a]pyrimidin-7-ol | 0.35 g | [N+](=O)([O-])C=1C=NN2C1N=CC=C2O | C6H4N4O3
reactant | cyclohexene | 1.6 g | C1=CCCCC1 | C6H10
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium-on-charcoal | 85 mg | [Pd] | Pd
solvent | acetic acid | 20 cc | C(C)(=O)O | C2H4O2
product | 3-AMINOPYRAZOLO[1,5-a]PYRIMIDIN-7-OL HYDROCHLORIDE | Cl.NC=1C=NN2C1N=CC=C2O | InChI=1S/C6H6N4O.ClH/c7-4-3-9-10-5(11)1-2-8-6(4)10;/h1-3,11H,7H2;1H
